US07625889B2
Step 1: 5-{4-Fluoro-3-[(3-pyrrolidin-1-yl-propylamino)-methyl]-phenyl}-indazole-1-carboxylic acid tert-butyl ester:
Sodium triacetoxyborohydride (190 mg, 0.88 mmol) was added to a mixture of 5-(4-fluoro-3-formylphenyl)-indazole-1-carboxylic acid tert-butyl ester (100 mg, 0.29 mmol) and N-(3-aminopropyl)pyrrolidine (74 mg, 0.59 mmol) and acetic acid (105 mg, 1.8 mmol) in dichloroethane. The mixture was stirred at ambient temperature overnight, and then it was diluted with dichloromethane and washed with 1 M sodium carbonate solution. The layers were separated and the aqueous phase extracted with dichloromethane. The combined organic layers were dried over magnesium sulfate, filtered and concentrated to leave the crude product. Chromatography (elution with methanol/dichloromethane) provided 130 mg of product. LC/MS: Retention time, 1.98 min; (M+H)=453.

reactant | Sodium triacetoxyborohydride | 0.88 mmol, 190 mg | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
reactant | 5-(4-fluoro-3-formylphenyl)-indazole-1-carboxylic acid tert-butyl ester | 0.29 mmol, 100 mg | C(C)(C)(C)OC(=O)N1N=CC2=CC(=CC=C12)C1=CC(=C(C=C1)F)C=O | C19H17FN2O3
reactant | N-(3-aminopropyl)pyrrolidine | 0.59 mmol, 74 mg | NCCCN1CCCC1 | C7H16N2
reactant | acetic acid | 1.8 mmol, 105 mg | C(C)(=O)O | C2H4O2
solvent | dichloroethane | ClC(C)Cl | C2H4Cl2
solvent | dichloromethane | ClCCl | CH2Cl2
product | 5-{4-Fluoro-3-[(3-pyrrolidin-1-yl-propylamino)-methyl]-phenyl}-indazole-1-carboxylic acid tert-butyl ester | 130 mg | C(C)(C)(C)OC(=O)N1N=CC2=CC(=CC=C12)C1=CC(=C(C=C1)F)CNCCCN1CCCC1 | C26H33FN4O2
